US06589978B2
(2RS,5SR)-5-(4-Fluoro-phenyl)-N-hydroxy-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxamidine
To a stirred suspension of (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carbonitrile (0.74 g, 2.15 mmol) in EtOH (25 ml) was added potassium carbonate (0.89 g, 6.45 mmol) and hydroxylamine hydrochloride (0.30 g, 4.30 mmol). The reaction mixture was heated under reflux conditions for 18 h, the formed precipitate collected, washed with dichloromethane/methanol. The organic solvents were evaporated and the crude product purified by column chromatography on silica gel (ethyl acetate/hexane 3:2). Crystallization from diethyl ether/methanol yielded the title compound (0.31 g, yield 38%) as a white solid, m.p. 217° C. and MS: m/e=378.3 (M+H+).

reactant | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carbonitrile | 2.15 mmol, 0.74 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C#N | C18H17FN2O2S
reactant | potassium carbonate | 6.45 mmol, 0.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydroxylamine hydrochloride | 4.30 mmol, 0.30 g | Cl.NO
solvent | EtOH | 25 ml | CCO | C2H6O
product | (2RS,5SR)-5-(4-Fluoro-phenyl)-N-hydroxy-1-(toluene-4-sulfonyl)-pyrrolidine-2-carboxamidine | 0.31 g, yield 38% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C(=N)NO | C18H20FN3O3S
